US03981908
2 g silicon tetrachloride were dissolved together with 2 g cuprous chloride and 2 g cupric chloride in 500 ml glacial acetic acid and 50 ml acetic anhydride. This solution was saturated with propylene and with compressed air at 40 atmospheres, and then heated to 160°C. Distillation resulted in the preparation of 4.6 g propylene glycol diacetate.

reactant | silicon tetrachloride | 2 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | propylene | C=CC | C3H6
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | propylene glycol diacetate | 4.6 g | C(C)(=O)OCC(C)OC(C)=O | C7H12O4
